* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\Transients\BIGtest-tran.asc
V1 N013 0 10
V2 N003 N013 SINE(0 5 1k)
R1 N004 N003 10k
R2 N009 N008 10k
R3 N008 N001 10k
R4 N004 N005 10k
R5 N005 N006 10k
C1 N006 N010 1m
C2 N006 N010 1m
L1 N007 N011 10
L2 N007 N011 10
L4 N009 N014 10
C4 N009 N014 1m
R6 N014 N016 10k
R7 N010 N016 10k
R8 N011 N017 10k
R9 N017 N016 10k
I1 N002 N001 0.1m
R10 N016 0 10k
R11 N002 N017 10k
R12 N002 N015 10k
R13 N015 N017 10k
R14 N005 N012 10k
C5 N012 N016 1m
R15 N007 N006 10k
.tran 10m
.backanno
.end
